US07932262B2
Step 5. 7-Bromo-2-chloroquinazoline
A 0.5M suspension of 7-bromoquinazolin-2-ol in phosphorus oxychloride was heated to 110° C. in an oil bath for 1 h. The mixture was cooled to room temperature. Volatiles were removed under reduced pressure. The residue was triturated with ice water. The solid was collected by filtration and air dried to give product in 65% yield. ES/MS m/z 243/245 (MH+).

reactant | 7-bromoquinazolin-2-ol | BrC1=CC=C2C=NC(=NC2=C1)O | C8H5BrN2O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-Bromo-2-chloroquinazoline | 65% yield | BrC1=CC=C2C=NC(=NC2=C1)Cl | C8H4BrClN2
